US04971963
A mixture of 980 mg of 1-(2-aminoethyl)-5-mercapto -1H-tetrazole, 696mg of S-methylisourea sulfate, 2.31 ml of triethylamine and 60 ml of DMF was stirred at 70° C. for 17 hours. Then the solvent was distilled off and the residue was purified by a column chromatography (silica gel=150 g; acetonitrile - water=7:1, then 5:1) to give 335mg of 1-(2-guanidinoethyl)-5-mercapto-1H-tetrazole as colorless crystals.

reactant | 1-(2-aminoethyl)-5-mercapto -1H-tetrazole | 980 mg | NCCN1N=NN=C1S | C3H7N5S
reactant | triethylamine | 2.31 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 1-(2-guanidinoethyl)-5-mercapto-1H-tetrazole | 335mg | N(C(=N)N)CCN1N=NN=C1S | C4H9N7S
